US04429135
131 g of 3-butoxy propylamine and 120 g of hydrazodicarbonamide are stirred in 300 ml of N-methyl pyrrolidone for 1 hour at 150° C., for 2 hours at 175° C. and for 6 hours at 200° C. A deposit is precipitated on cooling which is isolated by filtration under suction and recrystallised from cyclohexane, giving 152 g (75% of the theoretical yield) of 4-(3-butoxypropyl)-1,2,4-triazolidine-3,5-dione in the form of colourless crystals melting at 83° to 85° C.

reactant | 3-butoxy propylamine | 131 g | C(CCC)OCCCN | C7H17NO
reactant | hydrazodicarbonamide | 120 g | C(=O)(N)NNC(=O)N | C2H6N4O2
solvent | N-methyl pyrrolidone | 300 ml | CN1C(CCC1)=O | C5H9NO
product | 4-(3-butoxypropyl)-1,2,4-triazolidine-3,5-dione | C(CCC)OCCCN1C(NNC1=O)=O | C9H17N3O3
